US09079853B2
5-chloro-2-oxo-1-phenethyl-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate
This compound was made in an analogous fashion to 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate using 5-chloro-2-oxo-1-phenethylindolin-3-yl benzoate.

reactant | 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CC)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C28H29NO6
reactant | 5-chloro-2-oxo-1-phenethylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)Cl)CCC1=CC=CC=C1)=O | C23H18ClNO3
product | 5-chloro-2-oxo-1-phenethyl-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)Cl)CCC1=CC=CC=C1)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C33H30ClNO6
